US08455638B2
Step A. 2-Chloro-6-(2-methoxy-5-methylphenyl)-4-nitropyridine
The title compound was prepared according to the procedure described in Example 1 Step B, by reaction of 2-methoxy-5-methylphenylboronic acid with 2,6-dichloro-4-nitropyridine: LCMS m/z 279.5 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.19 (d, J=8.5 Hz, 1H), 7.52 (d, J=2.1 Hz, 1H), 7.44 (d, J=8.5 Hz, 1H), 7.28 (dd, J=8.5, 2.1 Hz, 1H), 6.83 (d, J=8.5 Hz, 1H), 3.72 (s, 3H), 2.42 (s, 3H).

reactant | 2-methoxy-5-methylphenylboronic acid | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
reactant | 2,6-dichloro-4-nitropyridine | ClC1=NC(=CC(=C1)[N+](=O)[O-])Cl | C5H2Cl2N2O2
product | 2-Chloro-6-(2-methoxy-5-methylphenyl)-4-nitropyridine | ClC1=NC(=CC(=C1)[N+](=O)[O-])C1=C(C=CC(=C1)C)OC | C13H11ClN2O3
